US04661635
2-Iodo-5-methoxy-N,alphadimethylbenzenepropanamine Hydrochloride
A solution of 19.41 g (0.625 mole) of methylamine in 400 ml of anhydrous methanol was treated with 37.92 g (0.125 mole) of 4-(2-iodo-5-methoxyphenyl)-2-butanone, 6.28 g (0.1 mole) of sodium cyanoborohydride and 21.07 g (0.312 mole) of methylamine hydrochloride and allowed to stir at room temperature under an atmosphere of nitrogen for 21/2 hours. The resulting mixture was cooled in an ice bath and treated with concentrated hydrochloric acid to pH 1. The solvent was evaporated in vacuo and the residue partitioned between 1.5 l of water and 600 ml of ether. The water layer was separated and treated with 50% sodium hydroxide solution until basic. The resulting crude product was extracted into 500 ml of ether, washed with brine, and the brine layer extracted with an additional 400 ml portion of ether. The combined ether layers were dried over anhydrous potassium carbonate and evaporated in vacuo to yield 31.09 g (78%) of crude oil. The oil was dissolved in methanol and treated with ethereal hydrogen chloride until neutral. Ether was added to the mixture and the resulting hydrochloride salt separated by filtration to give 19.75 g (44%) of crude product. One recrystallization from 2-propanol yielded pure 2-iodo-5-methoxy-N-alphadimethylbenzenepropanamine hydrochloride a white solid, mp 189°-190° C.

reactant | methylamine | 0.625 mole, 19.41 g | CN | CH5N
reactant | 4-(2-iodo-5-methoxyphenyl)-2-butanone | 0.125 mole, 37.92 g | IC1=C(C=C(C=C1)OC)CCC(C)=O | C11H13IO2
reactant | sodium cyanoborohydride | 0.1 mole, 6.28 g | C(#N)[BH3-].[Na+]
reactant | methylamine hydrochloride | 0.312 mole, 21.07 g | Cl.CN
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
solvent | Ether | CCOCC | C4H10O
product | 2-Iodo-5-methoxy-N,alphadimethylbenzenepropanamine Hydrochloride | 19.75 g, 44% | Cl.IC1=C(C=C(C=C1)OC)CCC(NC)C | InChI=1S/C12H18INO.ClH/c1-9(14-2)4-5-10-8-11(15-3)6-7-12(10)13;/h6-9,14H,4-5H2,1-3H3;1H
